US06630461B2
19.2) 3-[(3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(2-hydroxy-5-aminophenyl)-2-propenamide
The experimental protocol used is the same as that described for intermediate 18.2, with 3-[(3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(2-hydroxy-5-nitrophenyl)-2-propenamide replacing the 3-[(3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(4-hydroxy-3-nitrophenyl)-2-propenamide. A yellow powder is obtained with a yield of 74%. The product is used without additional purification in the following stage.

reactant | (3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(2-hydroxy-5-nitrophenyl)-2-propenamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])O)=C | C23H28N2O5
reactant | (3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(4-hydroxy-3-nitrophenyl)-2-propenamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)NC1=CC(=C(C=C1)O)[N+](=O)[O-])=C | C23H28N2O5
product | (3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(2-hydroxy-5-aminophenyl)-2-propenamide | yield of 74% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)NC1=C(C=CC(=C1)N)O)=C | C23H30N2O3
